US07214673B2
(S)-2-Butyl-10-(3-phenethyl-piperazin-1-yl)-4H-3-thia-1,4,9-triaza-benzo[f]azulene dihydrochloride
Add a solution of acetyl chloride (0.0601 mL, 0.842 mmol) in absolute ethanol at ambient temperature to (S)-2-Butyl-10-(3-phenethyl-piperazin-1-yl)-4H-3-thia-1,4,9-triaza-benzo[f]azulene (0.075 g, 0.17 mmol) in absolute ethanol, with added drops of methanol to solubilize the freebase, stir and concentrate under reduced pressure to give the title compound (0.078 g): Mass spectrum (ES+, m/e): 446 (M+1−2HCl); exact mass spectrum (ES+, m/e, C26H31N5S.2HCl): calc. 446.2378 (M+1–2HCl), found 446.2397.

reactant | acetyl chloride | 0.842 mmol, 0.0601 mL | C(C)(=O)Cl | C2H3ClO
reactant | (S)-2-Butyl-10-(3-phenethyl-piperazin-1-yl)-4H-3-thia-1,4,9-triaza-benzo[f]azulene | 0.17 mmol, 0.075 g | C(CCC)C1=NC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](NCC3)CCC3=CC=CC=C3 | C26H31N5S
reactant | methanol | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | (S)-2-Butyl-10-(3-phenethyl-piperazin-1-yl)-4H-3-thia-1,4,9-triaza-benzo[f]azulene dihydrochloride | 0.078 g | Cl.Cl.C(CCC)C1=NC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](NCC3)CCC3=CC=CC=C3 | InChI=1S/C26H31N5S.2ClH/c1-2-3-13-23-30-24-25(28-21-11-7-8-12-22(21)29-26(24)32-23)31-17-16-27-20(18-31)15-14-19-9-5-4-6-10-19;;/h4-12,20,27,29H,2-3,13-18H2,1H3;2*1H/t20-;;/m0../s1
